US09260440B2
To a solution of methyl 3-amino-2-bromo-5-fluorobenzoate (25.0 g, 100 mmol) and K2CO3 (42.0 g, 302 mmol) in DCM (250 mL) were added 2,2,2-trifluoroacetic anhydride (249.0 g, 1.197 mol) at 5−10° C. under nitrogen atmosphere. The mixture was stirred for overnight at 25° C. The reaction mixture was diluted with DCM, washed with H2O (200mL×2) and saturated NaHCO3 aq (200mL×2), dried over anhydrous Na2SO4, and concentrated to give 34.0 g (98%) of methyl 2-bromo-5-fluoro-3-(2,2,2-trifluoroacetamido)benzoate as white solid. 1H NMR (CDCl3-d1) δ 8.87 (s, 1H), 8.36 (d, 1H, J=6.4 Hz), 7.43 (d, 1H, J=5.2 Hz), 3.98 (s, 3H).

reactant | methyl 3-amino-2-bromo-5-fluorobenzoate | 100 mmol, 25.0 g | NC=1C(=C(C(=O)OC)C=C(C1)F)Br | C8H7BrFNO2
reactant | K2CO3 | 302 mmol, 42.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,2,2-trifluoroacetic anhydride | 1.197 mol, 249.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-bromo-5-fluoro-3-(2,2,2-trifluoroacetamido)benzoate | 34.0 g, 98% | BrC1=C(C(=O)OC)C=C(C=C1NC(C(F)(F)F)=O)F | C10H6BrF4NO3
